US03931151
A suspension of 2 g of 2-ethylthio-5-methyl-11-carboxymethyl [5H] dibenzo (b,f) azepine in 40 ml of ethyl acetate was heated until dissolution occured and after cooling the mixture, 840 mg of p-nitrophenol were added thereto. After total dissolution, 1.28 g of dicyclohexylcarbodiimide in 4.8 ml of ethyl acetate were added thereto and the mixture was refluxed with stirring for 1 hour. 130 mg of dicyclohexylcarbodiimide were then added and reflux with stirring was continued for 30 minutes. After cooling, the mixture was vacuum filtered and the filtrate was distilled to dryness under reduced pressure to obtain 3.9 g of raw product. The product was purified by chromatography over silica gel with a 98-2 benzene-ethyl acetate mixture as eluant to obtain 2.4 g of 2-ethylthio-5-methyl-11-(p-nitrophenoxycarbonyl)-methyl [5H] dibenzo (b,f) azepine as a yellow oil soluble in ethyl acetate, ethanol and chloroform and insoluble in water.

reactant | 2-ethylthio-5-methyl-11-carboxymethyl [5H] dibenzo (b,f) azepine | 2 g | C(C)SC1=CC2=C(N(C3=C(C=C2CC(=O)O)C=CC=C3)C)C=C1 | C19H19NO2S
reactant | p-nitrophenol | 840 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 1.28 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylcarbodiimide | 130 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 4.8 ml | C(C)(=O)OCC | C4H8O2
product | 2-ethylthio-5-methyl-11-(p-nitrophenoxycarbonyl)-methyl [5H] dibenzo (b,f) azepine | 2.4 g | C(C)SC1=C(C2=C(N(C3=C(C=C2C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C3)C)C=C1)C | C25H22N2O4S
